US08981104B2
rac-Ethyl 5-{(tert-butoxycarbonyl)[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate
23.85 g (70.06 mmol) of ethyl 5-{[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate were dissolved in 530 ml of dichloromethane and, with stirring, cooled to 0° C. A solution of 16.06 g (73.56 mmol) of di-tert-butyl dicarbonate in 30 ml of dichloromethane was then slowly added dropwise, and the reaction mixture was stirred at room temperature overnight. The reaction solution was then concentrated to dryness and the residue was triturated with ethanol. After filtration, the filter cake was washed repeatedly with ethanol and then air-dried. This gave 27.2 g (61.74 mmol, 88% of theory) of the target compound.

reactant | ethyl 5-{[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | 70.06 mmol, 23.85 g | OC1=C(C=CC=C1)CCNC1C=2C=CC(=NC2CCC1)C(=O)OCC | C20H24N2O3
reactant | di-tert-butyl dicarbonate | 73.56 mmol, 16.06 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 530 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | rac-Ethyl 5-{(tert-butoxycarbonyl)[2-(2-hydroxyphenyl)ethyl]amino}-5,6,7,8-tetrahydroquinoline-2-carboxylate | C(C)(C)(C)OC(=O)N(C1C=2C=CC(=NC2CCC1)C(=O)OCC)CCC1=C(C=CC=C1)O | C25H32N2O5
